US07488848B2
To a solution of 1-tert-butoxycarbonylaminocyclopropanecarboxylic acid (2.32 g, 11.5 mmol) in CH2Cl2 (25 mL) at 0° C. was added N,O-dimethylhydroxylamine hydrochloride (1.24 g, 12.7 mmol), triethylamine (2.57 g, 3.54 mL, 25.4 mmol), and HATU (4.82 g, 12.7 mmol). The reaction mixture was stirred at room temperature for 4 h. The reaction mixture was concentrated under reduced pressure and then partitioned between Et2O and water. The water layer was extracted with Et2O. The combined organic layer was washed with brine, dried (Na2SO4), and concentrated under reduced pressure to yield [1-(methoxy-methyl-carbamoyl)-cyclopropyl]carbamic acid tert-butyl ester which was used in the next step without further purification.

reactant | 1-tert-butoxycarbonylaminocyclopropanecarboxylic acid | 11.5 mmol, 2.32 g | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | 12.7 mmol, 1.24 g | Cl.CNOC
reactant | triethylamine | 25.4 mmol, 3.54 mL, 2.57 g | C(C)N(CC)CC | C6H15N
reactant | HATU | 12.7 mmol, 4.82 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | [1-(methoxy-methyl-carbamoyl)-cyclopropyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CC1)C(N(C)OC)=O)=O | C11H20N2O4
